US04400519
Benzil-di-(β-bromoethyl)ketal (13.26 g) and 11.55 g of sodium hexahydrophthalimide were dissolved in 100 ml of N,N-dimethylformamide, and heated at 50° to 60° C. for 5 hours with stirring. The reaction mixture was worked up in the same way as in Example 4 to afford 16.05 g (yield 89.5%) of benzil-di-(β-hexahydrophthalimidoethyl)ketal. Recrystallization from a mixture of ethanol and chloroform afforded crystals having a melting point of 115° to 116° C.

reactant | Benzil-di-(β-bromoethyl)ketal | 13.26 g | BrCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCBr | C18H18Br2O3
reactant | sodium hexahydrophthalimide | 11.55 g | C1(C2C(C(N1)=O)CCCC2)=O.[Na]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | benzil-di-(β-hexahydrophthalimidoethyl)ketal | 16.05 g, yield 89.5% | C1(C2C(C(N1CCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCN1C(C3C(C1=O)CCCC3)=O)=O)CCCC2)=O | C34H38N2O7
